US06525052B2
A clean and dry 250 mL round-bottom flask was equipped with a stir bar and flushed with Ar. Dry THF was added (40 mL) followed by addition of a 1.0 M solution of KO-t-Bu (32.2 mL, 32.2 mmol, 1.05 equiv). The solution was cooled to −78° C. in a dry-ice/acetone bath. Ethyl isocyanoacetate (3.35 mL, 30.7 mmol, 1.0 equiv) was added dropwise over a 10 min period. The resulting mixture was stirred an additional 5 min followed by addition, via syringe, of 2,2,3-trimethyl-butanal (3.5 g, 30.7 mmol, 1.0 equiv). The cold-bath was removed and resulting mixture was stirred at room temperature for 1 h. The reaction mixture was diluted by addition of a mix of 125 mL Et2O, 20 g ice, 2 mL AcOH. After the ice melted, 50 mL of water was added and the layers were mixed and separated. The organic layer was washed with 1×50 mL sat. NaHCO3 and dried over Na2SO4. The organic layer was decanted and concentrated. The crude enamide was purified by flash chromatography on silica gel using CH2Cl2 to 4% MeOH in CH2Cl2 to provide 2-formylamino-4,4,5-trimethyl-hex-2-enoic acid ethyl ester as a thick oil (4.54 g); MS: 228 (M+1).

reactant | KO-t-Bu | 32.2 mmol, 32.2 mL, 1.05 equiv | O([K])C(C)(C)C
reactant | Ethyl isocyanoacetate | 30.7 mmol, 3.35 mL, 1.0 equiv | [N+](#[C-])CC(=O)OCC | C5H7NO2
reactant | 2,2,3-trimethyl-butanal | 30.7 mmol, 3.5 g, 1.0 equiv | CC(C=O)(C(C)C)C | C7H14O
reactant | Et2O | 125 mL | CCOCC | C4H10O
solvent | water | 50 mL | O | H2O
solvent | AcOH | 2 mL | CC(=O)O | C2H4O2
product | 2-formylamino-4,4,5-trimethyl-hex-2-enoic acid ethyl ester | 4.54 g | C(C)OC(C(=CC(C(C)C)(C)C)NC=O)=O | C12H21NO3
